US06288086B1
1-Butyl-4-[4-(3-methyl-butoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method outlined in example 83 starting from [4-(3-methyl-butoxy)-phenylsulfonyl]-acetic acid ethyl ester (6.2 g, 20 mmol) and butyl-bis-(2-chloro-ethyl)-amine (5.2 g, 22 mmol). Yield 7 g (79%); yellow oil; MS: 440 (M+H)+

reactant | [4-(3-methyl-butoxy)-phenylsulfonyl]-acetic acid ethyl ester | 20 mmol, 6.2 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCCC(C)C)=O | C15H22O5S
reactant | butyl-bis-(2-chloro-ethyl)-amine | 22 mmol, 5.2 g | C(CCC)N(CCCl)CCCl | C8H17Cl2N
product | 1-Butyl-4-[4-(3-methyl-butoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CCCC)S(=O)(=O)C1=CC=C(C=C1)OCCC(C)C | C23H37NO5S
